US06218404B1
4-Benzyl-1-(2-hydroxyethyl)piperidine
To a solution of 4-benzylpiperidine (0.50 mL, 2.8 mmol) in DMF (15 mL) were added 2-chloroethanol (0.25 mL, 3.70 mmol) and K2CO3 (0.79 g, 5.70 mmol). The heterogeneous mixture was heated at 110° C. for 2 h. It was then cooled to 25° C. and was diluted with water (100 mL) and extracted with ether (2×70 mL). The collected organic phase was washed with water (2×100 mL), dried and concentrated in vacuo. The crude compound was purified by filtration on silica gel using CH2Cl2/MeOH as eluant to afford the title compound as a colorless solid (0.25 g, 40%): mp 62-64° C.; 1H NMR (CDCl3) δ 1.15-1.35 (m, 2H), 1.45-1.60 (m, 1H), 1.63 (bd, J=13.8 Hz, 2H), 1.99 (t, J=11.7 Hz, 2H), 2.48 (t, J=5.7 Hz, 2H), 2.53 (d, J=6.9 Hz, 2H), 2.87 (bd, J=11.7 Hz, 2H), 2.9 (bs, 1H), 3.574 (t, J=5.4 Hz, 2H), 7.14 (d, J=7.2 Hz, 2H), 7.20 (d, J=6.9 Hz, 1H), 7.28 (t, J=6.2 Hz, 2H); MS (m/z) 219, 188, 91. Anal. Calcd for C1-4H21NO: C, 76.71; H, 9.65; N, 6.40. Found: C, 74.49; H, 9.29; N, 6.08.

reactant | 4-benzylpiperidine | 2.8 mmol, 0.50 mL | C(C1=CC=CC=C1)C1CCNCC1 | C12H17N
reactant | 2-chloroethanol | 3.70 mmol, 0.25 mL | ClCCO | C2H5ClO
reactant | K2CO3 | 5.70 mmol, 0.79 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
solvent | water | 100 mL | O | H2O
product | 4-Benzyl-1-(2-hydroxyethyl)piperidine | 0.25 g, 40% | C(C1=CC=CC=C1)C1CCN(CC1)CCO | C14H21NO
